US08455646B2
Preparation of amino-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (I76)
(R)-Quinuclidin-3-yl 2-amino-2-phenylacetate dihydrochloride (C25) (1.11 g, 3.33 mmol) is dissolved in MeOH (10 mL) and 32% NH4OH (2.0 mL, 16.07 mmol) is added. The solution is stirred at RT for 30 seconds and then is evaporated under vacuum. The residue is dissolved in DCM/MeOH (4.5/0.5 mL) and about 1 g of SiO2 is added. The suspension is evaporated and the residue is loaded on a silica gel column and purified eluting with DCM/MeOH/NH4OH=9.2/0.8/0.1 to 9/1/0.1 to collect intermediate I124 as a pale yellow oil (635 mg, 73% yield).

reactant | (R)-Quinuclidin-3-yl 2-amino-2-phenylacetate dihydrochloride | 3.33 mmol, 1.11 g | Cl.Cl.NC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2
reactant | NH4OH | 16.07 mmol, 2.0 mL | [NH4+].[OH-]
solvent | MeOH | 10 mL | CO | CH4O
product | amino-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 635 mg, 73% yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)N)=O | C15H20N2O2
